Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
flank pain and fevers

 
Major Surgical or Invasive Procedure:
percutaneous nephrostomy
central venous line placement
 
History of Present Illness:
Ms. ___ is a ___ with PMHx notable for T2DM and obesity who is 
admitted with fevers and flank pain. 

The patient reports that she had acute onset right sided flank 
pain and fevers since yesterday morning. She denies any 
hematuria, dysuria or foul smelling using. She also denies any 
abdominal pain or nausea, vomiting or diarrhea. She reports a 
history of renal stones ___ years ago. 

- In the ED, initial vitals:  101.0 115 ___ 18 100%  
- Labs notable for WBC 13.5, Hgb 11.8, Hct 33.6, Na 131, K 4.9, 
Glu 183, and a positive UA. Lactate was 1.4. 
- Imaging notable for severe hydronephrosis of the right kindey 
and stranding concerning for pyelonephritis.
- Consults: Urology recommended emergent perc nephrostomy for 
severe right-sided hydronephrosis and pyelonephritis. 
- Given: 2L NS, Ketorolac 30mg, CTX 1gm and Acetaminopen 1g
- On transfer, vitals were:  103.0 148 114/78 20 98% RA 

On arrival to the MICU,  patient was feeling well and was 
without complaints. 

 
Past Medical History:
- Type II DM complicated by nephropathy
- Right-sided nephrolithiasis, hydroureteronephrosis ___, 
___
- Dyslipidemia
- Obesity and metabolic syndrome
- H/o Amenorrhea
- H/o ASCUS in ___
- H/o positive PPD s/p treatment with INH
- Umbilical hernia
- Diverticulosis

 
Social History:
___
Family History:
Mother deceased at ___. Father living at age ___ and healthy. Most 
of her ___ medical history is unknown as most relatives live 
in ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- HR 120, SBP 100s 99% on RA
GEN: A&Ox3 in NAD
HEENT: NC/AT, PERRLA, EOMI, MMM, dentition very poor, with 
multiple missing teeth
NECK: Full range of motion, no LAD
CV: RRR, nl S1/S2, no murmurs, rubs or gallops
PULM: CTAB, no wheezes, rales or rhonchi
ABD: Obese, soft, normoactive bowel sounds, NT/ND/NG/NR, no HSM,
reducible umbilical hernia
BACK: No CVA tenderness
EXTREM: 2+ pulses, no edema, negative microfilament exam
SKIN: no rash
NEURO: CNII-XII intact, motor and sensation grossly intact, gait
normal
PSYCH: normal mood and affect

DISCHARGE PHYSICAL EXAM:
VS: T 98.2 BP 131/65 HR 82 RR 18 SpO2 100% on RA
GENERAL: Appears well, interactive
HEENT: Vesicular lesions have are now flat ulcerated macules, 
scattered on upper and lower lips, no internal oral lesions 
seen.  Improved. No other mucosal lesions seen.
RESP: CTAB
CV: RRR, no murmur
GU: No foley
BACK: Right sided percutaneous nephrostomy tube draining clear 
yellow urine is c/d/i
 
Pertinent Results:
___ 08:16PM BLOOD WBC-13.5*# RBC-4.44 Hgb-11.8* Hct-33.6* 
MCV-76*# MCH-26.6* MCHC-35.1* RDW-14.2 Plt ___
___ 08:59AM BLOOD WBC-7.1 RBC-3.75* Hgb-9.8* Hct-28.4* 
MCV-76* MCH-26.2* MCHC-34.6 RDW-14.2 Plt ___
___ 02:42AM BLOOD WBC-6.7 RBC-3.59* Hgb-9.1* Hct-27.8* 
MCV-77* MCH-25.3* MCHC-32.7 RDW-14.3 Plt ___
___ 02:35PM BLOOD WBC-5.9 RBC-3.63* Hgb-9.4* Hct-27.1* 
MCV-75* MCH-25.8* MCHC-34.6 RDW-14.5 Plt ___
___ 06:00AM BLOOD WBC-3.4* RBC-3.35* Hgb-8.5* Hct-25.3* 
MCV-76* MCH-25.5* MCHC-33.7 RDW-14.6 Plt ___
___ 07:10AM BLOOD WBC-3.5* RBC-3.42* Hgb-8.9* Hct-26.3* 
MCV-77* MCH-26.0* MCHC-33.8 RDW-14.5 Plt ___
___ 03:45PM BLOOD WBC-3.4* RBC-3.50* Hgb-9.2* Hct-26.8* 
MCV-77* MCH-26.2* MCHC-34.2 RDW-14.5 Plt ___
___ 07:10AM BLOOD WBC-3.5* RBC-3.73* Hgb-9.5* Hct-28.7* 
MCV-77* MCH-25.5* MCHC-33.1 RDW-14.5 Plt ___
___ 08:59AM BLOOD ___ PTT-25.9 ___
___ 06:00AM BLOOD ___ PTT-29.7 ___
___ 07:10AM BLOOD ___ PTT-28.3 ___
___ 07:10AM BLOOD ___
___ 07:10AM BLOOD ___ 08:16PM BLOOD Glucose-183* UreaN-7 Creat-0.6 Na-131* 
K-8.5* Cl-96 HCO3-22 AnGap-22*
___ 02:42AM BLOOD Glucose-187* UreaN-6 Creat-0.4 Na-138 
K-3.7 Cl-107 HCO3-23 AnGap-12
___ 07:10AM BLOOD Glucose-188* UreaN-4* Creat-0.4 Na-139 
K-4.0 Cl-105 HCO3-25 AnGap-13
___ 07:10AM BLOOD Glucose-189* UreaN-5* Creat-0.4 Na-138 
K-4.1 Cl-105 HCO3-25 AnGap-12
___ 06:00AM BLOOD ALT-20 AST-23 LD(LDH)-167 AlkPhos-77 
TotBili-0.1
___ 08:59AM BLOOD Calcium-6.5* Phos-1.3* Mg-1.0*
___ 07:10AM BLOOD Calcium-8.8 Phos-4.4 Mg-1.9
___ 06:00AM BLOOD Hapto-343*

IMAGING
=======
CTU (___)
Wedge-shaped areas of hypoperfusion involving the right kidney 
and mild hydroureteronephrosis and perinephric soft tissue 
stranding. These findings likely represent pyelonephritis. No 
evidence of abscess. 

CTU (___)
1. Severe hydronephrosis of the right renal collecting system 
with a 
transition at the right UPJ. Edema, hypoenhancement, and 
perinephric stranding are concerning for pyelonephritis. 
2.  Several abdominal wall hernias as follows. Large midline 
umbilical hernia containing a loop of nonobstructed transverse 
colon.  Left abdominal wall containing non obstructed small 
bowel and short segment of splenic flexure.  Smaller fat 
containing supraumbilical hernia. 
3.  Scattered diverticula without evidence of acute 
diverticulitis 

PERCUTANEOUS NEPHROSTOMY PLACEMENT (___):
1. Successful placement of an 8 ___ nephrostomy on the right. 

2. Moderate to severe right hydronephrosis with obstruction at 
the level of the right UPJ.

KUB (___)
Right percutaneous nephrostomy catheter with pigtail formed in 
the expected region of the right kidney. 

MICROBIOLOGY
============
___ 6:50 pm URINE

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
___ F with DM2, prior right pyelonephrits and 
hydroureteronephrosis (___) presents with septic shock from 
urinary origin s/p percutaneous nephrostomy on ___.

#) SEPTIC SHOCK due to ACUTE PYLEONEPHRITIS: From urinary source 
given pyelonephritis, although no definitive culture data from 
urine (grew mixed flora).  Initialyl required vasopressurs, 
weaned ___.  Initially treated with IV ampicillin-sulbactam 
then transitioned to PO amoxicillin-clavulonate to complete a 14 
day course of antibiotics (___).  

#) HYDROURETERONEPHROSIS: Has been present since ___ in review 
of prior CT scans.  No OMR documentation surrounding the ___ 
imaging.  ___ CTU with severe hydroureteronephrosis and 
transition point at ureteropelvic junction concerning for 
impacted stone, stricture, reflux.  Outpatient urology follow-up 
arranged with Dr. ___.  Will need Mag-3 scan.

#) ACUTE BLOOD LOSS ANEMIA: No evidence of hemolysis.  Likely 
dilutional from IVF and from oozing from percutaneous 
nephrostomy site.  Serial CBCs were checked and were 
reassuring/stable.  Some bleeding from percutaneous nephrostomy 
on ___, but ___ evaluated and flushed nephrostomy without 
difficulty.  ___ was held and patient put on mechanical DVT 
prophylaxis.  Bleeding did not recur.  

#) LEUKOPENIA: Likely from sepsis/antibiotic effect.  Would 
check CBC/diff as outpatient to ensure resolution.

#) COAGULOPATHY: Resolved prior to discharge.  Likely related to 
transient sepsis.  Prolonged ___ with normal aPTT previously.  
Differential included, liver disease (normal LFTs), inhibitor of 
factor VII, DIC (normal haptoglobin, FDP, fibrinogen.)  No 
suggestion of DIC based on FDP, fibrinogen, liver disease.

#) HERPES LABIALIS: Likely reactivated in the setting of sepsis 
relative immunosuppressed state ___ et al. PLos ONE. ___  
Given acyclovir for a planned ___.

# CODE STATUS: Full code
# CONTACT:  Alga (Husband) - ___

TRANSITIONAL ISSUES
===================
[] Needs Mag-3 scan prior to urology follow-up
[] Would re-check CBC/diff to ensure leukopenia resolves
[] Would continue work-up of microcytic anemia including iron 
studies
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Psyllium Wafer 1 WAF PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H HSV infection 
RX *acyclovir 800 mg 1 tablet(s) by mouth three times a day Disp 
#*9 Tablet Refills:*0
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Urosepsis 
Duration: 12 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*20 Tablet Refills:*0
3. Losartan Potassium 25 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Psyllium Wafer 1 WAF PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnoses:
- Septic shock
- Pyelonephritis
- Urinary outflow obstruction

Secondary diagnoses:
- Diabetes mellitus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
   ___ was a pleasure taking care of you at ___ 
___.  You were admitted for an infection in your 
kidney and an obstruction.  Fortunately, a special tube was 
inserted (called a "nephrostomy") to drain urine and bypass the 
obstruction.  You improved on antibiotics.  You had some minor 
bleeding from the nephrostomy but this was transient and your 
blood counts and vital signs were reassuring.

Our nursing staff gave you instructions on how to care for your 
nephrostomy at home; please make sure to follow these 
instructions.

Please follow-up in ___ clinic as below to have your 
nephrostomy evaluated for possible removal.

Regards,
Your ___ Team
 
Followup Instructions:
___